US04618627
Using 0.1 g of 10% palladium-carbon as catalyst, 560 mg of 1-(3,4-dibenzyloxyphenyl)-3-methoxy-4-methyl-1-octene was catalytically reduced in a mixture of 5 ml of methanol and 5 ml of ethyl acetate until the absorption of hydrogen stopped. Thereafter, the catalyst was filtered off and the filtrate was concentrated under reduced perssure to provide 330 mg of oily 1-(3,4-dihydroxyphenyl)-3-methoxy-4-methyl-octane.

reactant | 1-(3,4-dibenzyloxyphenyl)-3-methoxy-4-methyl-1-octene | 560 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CC(C(CCCC)C)OC | C30H36O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-dihydroxyphenyl)-3-methoxy-4-methyl-octane | 330 mg | OC=1C=C(C=CC1O)CCC(C(CCCC)C)OC | C16H26O3
